US04009205
B. Preparation of 4-Acetamino-3-methylaniline
19.4g (0.1 mole) of 4-acetamino-3-methyl-nitrobenzene, 30g of dimethylformamide and 1g of fresh-developed Raney nickel were fed in an autoclave, 50kg/cm2 of hydrogen was then fed thereto, and, after the reaction was carried out at 60° to 120° C while stirring, the reaction mixture was removed immediately, the Raney nickel was removed while hot, and thereafter the product was poured into 100ml of methanol to separate the 4-acetamino-3-methylaniline produced.

reactant | 4-acetamino-3-methyl-nitrobenzene | 0.1 mole, 19.4g | N(C(=O)C)C1=C(C=C(C=C1)[N+](=O)[O-])C | C9H10N2O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Acetamino-3-methylaniline | N(C(=O)C)C1=C(C=C(N)C=C1)C | C9H12N2O
